US06734302B2
To a solution of 1-bromo-4-ethoxy-2-isopropoxy-benzene (0.48 g, 1.85 mmol) in DMF (5 mL) was added zinc cyanide (217 mg, 1.85 mmol). The reaction was degassed by passing argon through the mixture for 2 h before tetrakis(triphenylphosphine)-palladium (0) (0.21 g, 0.185 mmol) was added. The reaction mixture was heated at 100-105° C. under argon for 12 h. The reaction mixture was taken up in diethyl ether (50 mL) and saturated sodium bicarbonate solution (5 mL). The product was extracted with diethyl ether (2×30 mL). The organic layers were washed with water (1×10 mL) and brine (1×10 mL), dried (sodium sulfate) and concentrated. Purification of the crude by Biotage flash chromatography eluting with 10-15% ethyl acetate in hexanes gave 4-ethoxy-2-isopropoxy-benzonitrile as a clear oil (0.31 g, 81%).

reactant | 1-bromo-4-ethoxy-2-isopropoxy-benzene | 1.85 mmol, 0.48 g | BrC1=C(C=C(C=C1)OCC)OC(C)C | C11H15BrO2
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
catalyst | zinc cyanide | 1.85 mmol, 217 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.185 mmol, 0.21 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-ethoxy-2-isopropoxy-benzonitrile | 0.31 g, 81% | C(C)OC1=CC(=C(C#N)C=C1)OC(C)C | C12H15NO2
